US06486158B1
A 3M-solution of hydrazine (20 ml, 60 mmol) in ethanol is added to the solution of crude 2-(2-pyridylcarbonyl)benzoic acid hydrochloride(4.54 g, 20 mmol), and the mixture is stirred at room temperature for 5 hours. Precipitation yields 1-hydroxy-4-(2-pyridyl)phthalazine.

reactant | hydrazine | 60 mmol, 20 ml | NN | H4N2
reactant | 2-(2-pyridylcarbonyl)benzoic acid hydrochloride | 20 mmol, 4.54 g | Cl.N1=C(C=CC=C1)C(=O)C1=C(C(=O)O)C=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 1-hydroxy-4-(2-pyridyl)phthalazine | OC1=NN=C(C2=CC=CC=C12)C1=NC=CC=C1 | C13H9N3O
